US06211199B1
78.3 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-(trifluoromethyl)phenylmethyl)-3-(2-hydroxyethyl)-2-oxopyrrolidine
Prepare by the method of Example 17.4 using 1-(3,4,5-trimethoxybenzyl)-3-(4-(trifluoromethyl)phenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine (0.6 g, 1.0 mmol) and ammonium fluoride (0.23 g, 6.2 mmol) to give the title compound: Rf=0.35 (silica gel, ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-(trifluoromethyl)phenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine | 1.0 mmol, 0.6 g | COC=1C=C(CN2C(C(CC2)(CCO[Si](C)(C)C(C)(C)C)CC2=CC=C(C=C2)C(F)(F)F)=O)C=C(C1OC)OC | C30H42F3NO5Si
reactant | ammonium fluoride | 6.2 mmol, 0.23 g | [F-].[NH4+]
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-(trifluoromethyl)phenylmethyl)-3-(2-hydroxyethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCO)CC2=CC=C(C=C2)C(F)(F)F)=O)C=C(C1OC)OC | C24H28F3NO5
